US07192982B2
Step B: (S)-5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolane-4-one
(S)-5-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one (1.0 g, 3.2 mmol) was combined with 10% Pd/C (0.75 g) in EtOAc (40 mL) and purged with N2 then H2 and then stirred under a hydrogen balloon for 3 hours. Sodium sulfate was added, and the mixture was filtered through Celite. The solvent was removed in vacuo to afford the title compound (0.747 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.11 (d, 2H, J=8.31 Hz), 6.76 (d, 2H, J=8.31 Hz), 4.93 (bs, 1H), 4.61 (dd, 1H, J=6.36 Hz, J=4.40 Hz), 3.11 (dd, 1H, J=14.67 Hz, J=4.40 Hz), 2.98 (dd, 1H, J=14.67 Hz, J=5.86 Hz), 1.49 (s, 3H), 1.36 (s, 3H). MS (ES−) m/z mass calc'd for C12H14O4 (M−1) 221. Found m/z 221.

reactant | (S)-5-(4-benzyloxy-benzyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 3.2 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@H]2C(OC(O2)(C)C)=O)C=C1 | C19H20O4
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.75 g | [Pd] | Pd
product | (S)-5-(4-hydroxy-benzyl)-2,2-dimethyl-[1,3]dioxolane-4-one | 0.747 g, 100% | OC1=CC=C(C[C@H]2C(OC(O2)(C)C)=O)C=C1 | C12H14O4
